US07439399B2
(R)-(−)-N-methyl-3-(2-methylphenoxy)-3-phenylpropylamine hydrochloride (Atomoxetine Hydrochloride)
Under stirring and maintaining temperature between 22° C. and 25° C. by means of water bath cooling, 10.07 g (0.09945 mol) of aqueous hydrogen chloride (36%) were dropped on 177 g (0.08648 mol) of atomoxetine base solution (n-butyl acetate), prepared as in Example 7. The hydrochloride then crystallized. The obtained suspension was stirred at about 25° C. for one hour. The solid was collected by filtration and washed twice with 30 ml of n-butyl acetate each time. The solid collected was dried for 18 hours at 70° C. under vacuum. Tomoxetine hydrochloride content: >99% by HPLC assay. Weight: 25.18 g (0.08629 mol). Yield: 99.8%. Atomoxetine hydrochloride enantiomeric ratio: R/S>99/1 (by chiral HPLC)

reactant | hydrogen chloride | 0.09945 mol, 10.07 g | Cl | ClH
reactant | atomoxetine | 0.08648 mol, 177 g | CC=1C=CC=CC1O[C@H](CCNC)C=2C=CC=CC2 | C17H21NO
solvent | n-butyl acetate | C(C)(=O)OCCCC | C6H12O2
product | (R)-(−)-N-methyl-3-(2-methylphenoxy)-3-phenylpropylamine hydrochloride | Yield: 99.8% | Cl.CNCC[C@H](C1=CC=CC=C1)OC1=C(C=CC=C1)C | InChI=1S/C17H21NO.ClH/c1-14-8-6-7-11-16(14)19-17(12-13-18-2)15-9-4-3-5-10-15;/h3-11,17-18H,12-13H2,1-2H3;1H/t17-;/m1./s1
